US07612075B2
Trifluoroacetic acid (4 mL) is added to a solution of 4-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester (1.1 g, 2.0 mmol) in CH2Cl2 (15 mL). After 1 h the reaction is concentrated and the residue is dissolved in CH2Cl2 and washed with Na2CO3, dried (MgSO4) and concentrated to provide 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-piperidin-4-ylmethyl-piperazin-2-one. 1H NMR (300 MHz, CDCl3) δ 7.87-7.83 (m, 3H), 7.46 (dd, 1H), 3.86 (dd, 2H), 3.45 (s, 2H), 3.23 (d, 2H), 3.07 (d, 2H), 2.54 (dt, 2H), 2.39 (s, 1H), 1.83-1.75 (m, 1H), 1.56 (d, 2H), 1.24-1.11 (m, 2H); MS (Ion spray) 428 (M+H)+.

reactant | Trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O | C23H30ClN3O5S2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-piperidin-4-ylmethyl-piperazin-2-one | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCNCC2)=O)C1 | C18H22ClN3O3S2
